US07176225B2
(6aR,7aS,8S,11aS)-5,8-bis(dimethylamino)-2-(2,2-diphenylvinyl)-9,11a,12-trihydroxy-11,13-dioxo-6,6a,7,7a,8,11,11a,13-octahydrotetraceno[2,1-d][1,3]oxazole-10-carboxamide
9-aminominocycline sulfate salt (0.500 g, 0.748 mmol) is dissolved in anhydrous DMF and treated with β-phenylcinnamaldehyde (0.779 g, 3.74 mmol, 5 equivalents) The solution is then treated with DDQ (0.085 g, 0.374 mmol, 0.5 equivalents) and stirred at room temperature for 5 min. ES+ mass spectrometry showed a 1:1 ratio of product and starting material. A second portion of DDQ (0.068 g, 0.300 mmol, 0.4 equivalents) is added. After approximately 5 minutes, acetonitrile (7.5 mL) is added, and the entire reaction mixture is poured slowly into ether (750 mL.) The pink solid is removed by filtration and washed with fresh ether to yield 0.480 g of the crude product. This material is dissolved in water (75 mL) to give a solution at pH 2.2, which is extracted with dichloromethane (2×100 mL.) The pH of the aqueous layer is raised to 3.0 with aqueous ammonia, and the solution is again extracted with dichloromethane (2×100 mL.) The four organic extracts are dried (Na2SO4), filtered and concentrated to a volume of about 2 mL. A small portion of methanol (1 mL) is added, and the concentrated solution is treated dropwise with 1M HCl in ether. The solid precipitate is filtered, washed with fresh ether and dried under vacuum the product as its HCl salt.

reactant | 9-aminominocycline sulfate | 0.748 mmol, 0.500 g | CN(C)[C@H]1[C@@H]2C[C@@H]3CC4=C(C(=C(C=C4N(C)C)N)O)C(=C3C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O)O | C23H28N4O7
reactant | β-phenylcinnamaldehyde | 3.74 mmol, 0.779 g, 5 equivalents | C1(=CC=CC=C1)C(=CC=O)C1=CC=CC=C1 | C15H12O
reactant | DDQ | 0.374 mmol, 0.085 g, 0.5 equivalents | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | DDQ | 0.300 mmol, 0.068 g, 0.4 equivalents | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | acetonitrile | 7.5 mL | C(C)#N | C2H3N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ether | 750 mL | CCOCC | C4H10O
product | (6aR,7aS,8S,11aS)-5,8-bis(dimethylamino)-2-(2,2-diphenylvinyl)-9,11a,12-trihydroxy-11,13-dioxo-6,6a,7,7a,8,11,11a,13-octahydrotetraceno[2,1-d][1,3]oxazole-10-carboxamide | 0.480 g | CN(C1=CC=2N=C(OC2C=2C(C3=C([C@@]4(C(C(=C([C@H]([C@@H]4C[C@@H]3CC12)N(C)C)O)C(=O)N)=O)O)O)=O)C=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C38H36N4O7
